US09233968B1
To 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine, (30 mg, 0.12 mmol, 1 eq) and 2-fluoro-5-methylbenzoic acid (18.5 mg, 1 eq) in anhydrous dichloroethane (1 mL) under nitrogen atmosphere at room temperature was added 4-(dimethylamino)pyridine (2.94 mg, 0.2 eq) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (27.76 mg, 1.2 eq). After the reaction was stirred at 50° C. for 2 hours, it was diluted with chloroform, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, brine, and lastly dried with anhydrous sodium sulfate. The upper solution was decanted, concentrated, and the solid residue was subject to a gradient column chromatography (from CHCl3 to MeOH—CHCl3 1:25) to yield N-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-2-fluoro-5-methylbenzamide as a yellow solid in amount of 7 mg.

reactant | 6-[(4-aminophenyl)ethynyl]imidazo[1,2-b]pyridazin-2-amine | 0.12 mmol, 30 mg, 1 eq | NC1=CC=C(C=C1)C#CC=1C=CC=2N(N1)C=C(N2)N | C14H11N5
reactant | 2-fluoro-5-methylbenzoic acid | 18.5 mg, 1 eq | FC1=C(C(=O)O)C=C(C=C1)C | C8H7FO2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 27.76 mg, 1.2 eq | Cl.CN(CCCN=C=NCC)C
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
catalyst | 4-(dimethylamino)pyridine | 2.94 mg, 0.2 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{4-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)ethynyl]phenyl}-2-fluoro-5-methylbenzamide | NC=1N=C2N(N=C(C=C2)C#CC2=CC=C(C=C2)NC(C2=C(C=CC(=C2)C)F)=O)C1 | C22H16FN5O
